US07629363B2
Step 1: Preparation of methyl 3-(4-hydroxy-6-methyl-2-oxopyridin-1(2H)-yl)benzoate
Methyl 3-aminobenzoate (75.00 g, 496.13 mmol) and 4-hydroxy-6-methyl-2-pyrone (62.57 g, 496.13 mmol) were suspended in 1,2-dichlorobenzene (150 mL) and heated to 165° C. for 15 minutes. The reaction was cooled to room temperature and extracted with 0.54M K2CO3 (4×250 mL). The aqueous layers were acidified (pH 2) with 4N HCl. The precipitate was collected by filtration to afford a yellow-orange solid (20.24 g, 16%). The resulting filtrate was extracted with ethyl acetate (3×1 L). The organic layers were washed with brine (500 mL), dried over MgSO4 and evaporated. The resulting solid was washed with hot H2O to afford a yellow-orange solid (3.84 g, 3%). The two solids were then combined. 1H NMR (400 MHz, DMSO-d6) δ 7.98 (dt, J=1.31, 7.79 Hz, 1H), 7.69 (app t, J=1.78 Hz, 1H), 7.62 (t, J=7.78 Hz, 1H) 7.49 (ddd, J=1.07, 1.07, 7.85 Hz, 1H), 5.89 (dd, J=087, 2.48 Hz, 1H), 5.55 (app d, J=0.94 Hz, 1H), 3.83 (s, 3H), 1.80 (s, 3H). ES-HRMS m/z 260.0895 (M+H C14H13NO4 requires 260.0917).

reactant | Methyl 3-aminobenzoate | 496.13 mmol, 75.00 g | NC=1C=C(C(=O)OC)C=CC1 | C8H9NO2
reactant | 4-hydroxy-6-methyl-2-pyrone | 496.13 mmol, 62.57 g | OC1=CC(OC(=C1)C)=O | C6H6O3
solvent | 1,2-dichlorobenzene | 150 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | methyl 3-(4-hydroxy-6-methyl-2-oxopyridin-1(2H)-yl)benzoate | 20.24 g, 16% | OC1=CC(N(C(=C1)C)C=1C=C(C(=O)OC)C=CC1)=O | C14H13NO4
